US08791123B2
(R)—N-cyclopropyl-5-(2-(5-fluoro-2-(2-morpholinoethoxy)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method described in Example 76, Step F using ((R)-5-(2-(5-fluoro-2-(2-morpholinoethoxy)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid hydrochloride and cyclopropylamine to yield the title compound as a white solid (35.4 mg, 70% yield). MS (apci) m/z=495.1 (M+H).

reactant | (R)-5-(2-(5-fluoro-2-(2-morpholinoethoxy)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid hydrochloride | Cl.FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O)OCCN2CCOCC2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (R)—N-cyclopropyl-5-(2-(5-fluoro-2-(2-morpholinoethoxy)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 35.4 mg, 70% yield | C1(CC1)NC(=O)C=1C=NN2C1N=C(C=C2)N2[C@H](CCC2)C2=C(C=CC(=C2)F)OCCN2CCOCC2 | C26H31FN6O3
